US04178449
7-Chloro-5(α,α,α-trifluoro-m-tolyl)pyrazolo[1.5-a]pyrimidine
A mixture of 1.75 g. of 7-hydroxy-5-(α,α,α-trifluoro-m-tolyl) pyrazolo[1,5-a]pyrimidine and 15 ml. of phosphorus oxychloride is refluxed for 2 hours. After evaporation at reduced pressure, ice is added to the residue and the desired compound is extracted with methylene chloride. After washing the organic layer with a saturated saline solution and drying with solid anhydrous sodium sulfate, evaporation gives the desired compound, m.p. 137°-139° C.

reactant | 7-hydroxy-5-(α,α,α-trifluoro-m-tolyl) pyrazolo[1,5-a]pyrimidine | OC1=CC(=NC=2N1N=CC2)C=2C=C(C=CC2)C(F)(F)F | C13H8F3N3O
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 7-Chloro-5(α,α,α-trifluoro-m-tolyl)pyrazolo[1.5-a]pyrimidine | ClC1=CC(=NC=2N1N=CC2)C=2C=C(C=CC2)C(F)(F)F | C13H7ClF3N3
